US04341793
2-Benzofuranylglyoxal
A mixture of 2-acetylbenzofuran (100 g) and selenium dioxide (69.3 g) was dissolved in water (20 ml) and dioxan (500 ml) and heated under reflux for 24 h. The reaction mixture was filtered and the solvent evaporated to give a dark-red solid which was taken up in dimethylformamide and heated on a steam bath for 8 h. The solution was filtered, the solvent evaporated and the residue triturated with ether to give the title compound (65.4 g).

reactant | 2-acetylbenzofuran | 100 g | C(C)(=O)C=1OC2=C(C1)C=CC=C2 | C10H8O2
reactant | selenium dioxide | 69.3 g | [Se](=O)=O | O2Se
reactant | dioxan | 500 ml | O1CCOCC1 | C4H8O2
solvent | water | 20 ml | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-Benzofuranylglyoxal | 65.4 g | O1C(=CC2=C1C=CC=C2)C(C=O)=O | C10H6O3
